US04254034
(b) 18-crown-6-dimethyloxalate complex
2 Equivalents of dimethyloxalate were added to a solution of 53 mg 18-crown-6 in 1 ml of diethylether at 25° C. A solid complex was formed immediately. The precipitated crystals were filtered off at atmospheric pressure and washed with 1 ml of a 0.425 M solution of dimethyloxalate in diethylether. The crystals contained 80% of the starting amount of 18-crown-6. A melting point range of 62°-82° C. was observed.

reactant | dimethyloxalate | COC(C(=O)OC)=O | C4H6O4
reactant | 18-crown-6 | 53 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | diethylether | 1 ml | C(C)OCC | C4H10O
product | 18-crown-6 dimethyloxalate | C1COCCOCCOCCOCCOCCO1.COC(C(=O)OC)=O | InChI=1S/C12H24O6.C4H6O4/c1-2-14-5-6-16-9-10-18-12-11-17-8-7-15-4-3-13-1;1-7-3(5)4(6)8-2/h1-12H2;1-2H3
